US08193187B2
7-[4-(3-Benzylaminopropylsulfonyloxy)-2-methoxyphenyl]-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 3-1)
A mixture of 7-[4-(3-chloropropylsulfonyloxy)-2-methoxyphenyl]-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 1-54, 50.0 mg, 0.0846 mmol), benzylamine (92.4 μL, 0.846 mmol), and potassium iodide (16.9 mg, 0.102 mmol) was suspended in anhydrous N,N-dimethylformamide (0.4 mL) and stirred at 50° C. for 5 hours. After cooling down, ethyl acetate (50 mL) was added thereto. The organic layer was washed with water (50 mL) and saturated brine (30 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (21.4 mg) as a colorless amorphous product. (Yield 38%)

reactant | 7-[4-(3-chloropropylsulfonyloxy)-2-methoxyphenyl]-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.0846 mmol, 50.0 mg | ClCCCS(=O)(=O)OC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | C29H32ClFN2O6S
reactant | benzylamine | 0.846 mmol, 92.4 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium iodide | 0.102 mmol, 16.9 mg | [I-].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
product | 7-[4-(3-Benzylaminopropylsulfonyloxy)-2-methoxyphenyl]-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 21.4 mg, Yield 38% | C(C1=CC=CC=C1)NCCCS(=O)(=O)OC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | C36H40FN3O6S
